US08802864B2
c) 4-[4-(1-benzofuran-5-yl)-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a microwave vial were added 4-[4-bromo-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (55 mg, 0.072 mmol), 4-[4-bromo-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (55 mg, 0.072 mmol), cesium carbonate (82 mg, 0.251 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (6.0 mg, 0.00735 mmol) and the mixture was purged with nitrogen. 1,4-Dioxane (1 mL) and water (0.5 mL) were added to the mixture which was heated overnight at 100° C. Analysis by LCMS indicated desired product formation and consumption of starting material. The mixture was filtered through a syringe filter and purified by reverse phase HPLC (10-90% acetonitrile/water with 0.1% TFA). The desired fractions were collected and added to a reparatory funnel containing ethyl acetate. The aqueous phase was adjusted to pH˜6 with 1N aq HCl. The aqueous phase was extracted with ethyl acetate (3×), and the combined organics were washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford the title product as a tan solid (15 mg, 41%). MS(ES)+ m/e 497.2 [M+H]+.

reactant | 4-[4-bromo-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.072 mmol, 55 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C(F)(F)F | C18H18BrF3N4O2
reactant | 4-[4-bromo-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.072 mmol, 55 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C(F)(F)F | C18H18BrF3N4O2
reactant | cesium carbonate | 0.251 mmol, 82 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 0.00735 mmol, 6.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 4-[4-(1-benzofuran-5-yl)-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 15 mg, 41% | O1C=CC2=C1C=CC(=C2)C2=CC(=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O)C(F)(F)F | C26H23F3N4O3
